datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C([H])[NH]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[O:10]([K])C(CC)/C(C)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O+:10]([K])C(CC)C(C)=C1O 10=20;20,21=21"
"[H][O:10]C([H])C([H])[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C([H])[S]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])CC>>CN([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[Cl:21])CCCCCC)C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"[Na][O:21]CC.[C:20](=[O:10])(OCCCCCC)OC1=CC=CC=C1>>[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OC1=CC=CC=C1)CC 21=20;20,10=10"
"[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[Na][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)CCCCCC>>[Na][O:21]CCCCCC.[C:20](=[O:10])(OCC)OC1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[O:10]([K])C(CC)C([H])/C([H])=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21]CC>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)[H])[H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCC)C1=CC=CC=C1)CCCCCC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([NH]CC)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH][H] 10=20;20,21=21"
"C[C:20](=[O+:21]C)CC.[I-:10]>>C[C:20]([O:21]C)([I:10])CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[O-:10]C([H])C(C)C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C(C)C([H])[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)=C(C)C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C(C)/C(C)=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(C)C(C)C([H])C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C([H])C(C)[C:20](C)=[OH+:21] 21=20;20,10=10"
